Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M ___ CAD (s/p MI, PTCA to mid LAD with DES), HFrEF (EF 
25% per MA records), Afib (formerly on coumadin, stopped ___ 
GIB), CKD stage III being transferred from ___ for 
possible cardioversion and continued management of acute on 
chronic HFrEF.  Patient was originally admitted to ___ 
from ___ on ___ after a 28 lb wt gain over the 
past month in setting of decreased lasix dose ___ weeks prior to 
admission, done ___ ___.  At ___, he was diuresed with IV 
lasix boluses and put on a heparin gtt given he was off warfarin 
for ~3 weeks prior to admission due to hematuria.  

At ___, he was put on lasix gtt at 10 mg/hr with 
good response.  He was continued on hep gtt. Patient had 
hematuria and new BRBPR at OSH (developed on ___. Warfarin 
continued to be held given possible bleed.  Hospital course also 
c/b ___ on CKD (Ct baseline 1.2, Ct up to 2.0). Vitals on 
transfer: SBP 107/62 HR 71 RR 20 SpO2 95% on 3L.  On the floor, 
patient developed hypotension to ___, thought he continued 
to mentate well, answering questions, quickly recovering to SBPs 
100s/60s without intervention.
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia, +diabetes 
(hgba1c 8)
2. CARDIAC HISTORY:
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: PCI to mid LAD ___ 
- ___: None

3. OTHER PAST MEDICAL HISTORY:
CKD stage III baseline Ct 1.2-1.5 
ischemic CM s/p ICD, EF 25%
Afib formerly on warfarin 

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
================================
VS: SBP 107/62 HR 71 RR 20 SpO2 95% on 3L 
GENERAL: cachetic, exhausted male in NAD. Oriented x3. 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. 
NECK: Supple with JVP of 12 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. irregular, normal S1, S2. + s3
LUNGS: crackles thoughout all lung fields 
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. 2+ 
edema to thigh 
PULSES: Distal pulses palpable and symmetric

DISCHARGE PHYSICAL EXAMINATION:
================================
PHYSICAL EXAM:
VS: 98.6 ___ 16 95-97% RA
Wt: 82.5 -> 79.1 -> 77.6 -> 74 -> 72.8 -> 72.4 (off Lasix gtt 
___, no diuresis ___ -> 71.2 kg -> 71.0 kg -> 70.5 kg
Presumed dry weight 71.3kg
GENERAL: NAD. Oriented x3.
HEENT: NCAT. Sclera anicteric. EOMI. MMM.
NECK: Supple with JVP 8 cm.
CARDIAC: Irregular, tachycardia, normal S1/S2. +S3. II/VI 
systolic murmur LLSB.
LUNGS: Expiratory wheezes. No crackles.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: Warm, trace edema BLE. No femoral bruits.
 
Pertinent Results:
ADMISSION LABS:
================
___ 08:50PM BLOOD WBC-7.6 RBC-4.78 Hgb-14.0 Hct-45.4 MCV-95 
MCH-29.3 MCHC-30.8* RDW-19.0* RDWSD-62.4* Plt Ct-94*
___ 08:50PM BLOOD Plt Smr-LOW Plt Ct-94*
___ 09:40PM BLOOD ___ PTT-36.6* ___
___ 08:50PM BLOOD Glucose-274* UreaN-61* Creat-1.8* Na-150* 
K-4.1 Cl-106 HCO3-35* AnGap-13
___ 08:50PM BLOOD ALT-23 AST-26 LD(LDH)-247 CK(CPK)-50 
AlkPhos-135* TotBili-0.9
___ 08:50PM BLOOD Albumin-3.4* Calcium-9.2 Phos-3.4 Mg-2.4
___ 08:50PM BLOOD %HbA1c-8.0* eAG-183*
___ 08:40PM BLOOD Glucose-262* Lactate-1.9 Na-146* K-3.8 
Cl-99

CARDIAC LABS:
=========
___ 08:50PM BLOOD CK-MB-2 cTropnT-0.03*
___ 03:54AM BLOOD CK-MB-2 cTropnT-0.03*
___ 01:20PM BLOOD ___
___ 05:00PM BLOOD ___

DISCHARGE LABS:
=================
___ 06:17AM BLOOD WBC-8.8 RBC-4.81 Hgb-13.8 Hct-43.5 MCV-90 
MCH-28.7 MCHC-31.7* RDW-17.9* RDWSD-57.5* Plt ___
___ 06:17AM BLOOD Plt ___
___ 06:17AM BLOOD ___ PTT-53.2* ___
___ 12:32AM BLOOD PTT-99.8*
___ 06:17AM BLOOD Glucose-153* UreaN-32* Creat-1.5* Na-138 
K-4.6 Cl-96 HCO3-30 AnGap-17
___ 06:17AM BLOOD Calcium-8.7 Phos-3.1 Mg-2.3

IMAGING:
========

RIGHT HEART CATHERIZATION ___:
===================================
Normal biventricular filling pressures
Moderate pulmonary hypertension
Depressed cardiac index

CXR ___:
==============
IMPRESSION:  
Since ___, unchanged pulmonary edema.   New right basilar 
atelectasis.  Persistent severe cardiomegaly and stable moderate 
left effusion 

Abdominal Ultrasound ___:
===============================
IMPRESSION:  
1.  Unremarkable liver echotexture.  Main portal vein is patent. 

2. Small ascites. 
3.  A 2.4 cm staghorn calculus is identified in the lower pole 
of the right kidney.  No hydronephrosis. 

ECHO ___:
==============
The left atrium is markedly dilated. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity is mildly dilated. 
Overall left ventricular systolic function is severely depressed 
(LVEF= 25%) secondary to dyskinesis and thinning of the 
mid-distal anterior septum with moderate-severe hypokinesis of 
the remaining segments. The right ventricular cavity is mildly 
dilated with borderline normal free wall function. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. The mitral valve leaflets do not fully coapt. 
Moderate (2+) mitral regurgitation is seen. Moderate to severe 
[3+] tricuspid regurgitation is seen. There is severe pulmonary 
artery systolic hypertension. There is a very small pericardial 
effusion. There are no echocardiographic signs of tamponade. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild cavity dilatation. Severe global LV systolic dysfunction 
with regional involvement suggestive of ischemic cardiomyopathy. 
Moderate functional mitral regurgitation. Right ventricular 
cavity dilatation with moderate-severe tricuspid regurgitation 
and severe pulmonary artery systolic hypertension.  

CXR ___:
=============
IMPRESSION:  Right PICC terminates at or just below the 
cavoatrial junction.  ICD is in standard position.  Cardiomegaly 
is accompanied by pulmonary vascular congestion, mild to 
moderate edema, small right pleural effusion, and small to 
moderate left pleural effusion with apparent loculation 
laterally. 
 
 
Brief Hospital Course:
___ with PMH CAD (s/p PTCA to mid LAD with DES, ICD single 
chamber x ___ yrs), HFrEF (EF 25% per MA records), Afib (off 
Coumadin in setting of BRBPR and hematuria), CKD stage III, 
transferred from ___ for possible cardioversion and 
management of acute on chronic HFrEF.

#Acute on chronic HFrEF (EF 25% on OSH TTE): Patient was 
admitted with a weight of 82.5kg and diuresed with Lasix gtt @ 
10 to a weight of 70.5 kg. His dry weight is 71.2 kg.  Labs were 
notable for a ___: 13667 (___), up from admission 7901.  He 
underwent a RHC that showed CI of 1.6, PCWP 18, however the 
patient was asymptomatic (in fact feeling much better than he 
had previously) so we opted for medical management with digoxin 
and held his metoprolol.  We uptitrated his afterload reduction 
upon being euvolemic. We transitioned him to 40 po lasix bid and 
increased his hydral to 20 tid and transitioned him to his home 
lasix regimen on discharge.  We recommend follow-up with his 
cardiologist in ___ days.

#Afib with RVR: CHADSVASC of 4. On admission, patient was off 
Coumadin in setting of hematuria and BRBPR. ICD interrogation 
revealed that his afib was likely chronic so he did not get 
cardioverted. We had him started on heparin gtt while titrating 
warfarin dosing. Patient also on digoxin for rate control. 
Digoxin was elevated in the setting of amiodarone, and therefore 
we monitored his levels very closely for signs of toxicity.  We 
also restarted him on coumadin with careful monitoring, and 
arranged for him to have ___ clinic follow-up after 
discharge.  

___ on CKD: Baseline 1.2-1.5, 1.8 on admission. Cr bumped 
transiently in the setting of overdiuresis but improved over the 
course of his hospitalization.

#Hematuria: Abdominal u/s with R kidney Staghorn calculi ? 
source. Repeat Ucx grew Pseudomonas >100k. Foley changed ___.  
Urology recommended no acute need for inpatient management, 
needs outpatient follow up with urology and nephrology. 

#Pulmonary HTN: Severe, based on RHC, appears venous.  Managing 
LV dysfunction as above.

#DM2: A1c 8.1 (___). We placed the patient on an ISS to control 
his hyperglycemia particularly in the setting of hypernatremia, 
to reduce free water loss and prevent further exacerbation of 
hypernatremia.  

#Thrombocytopenia: Improving. On admission, platelets 91. Per 
PCP, baseline ~200K, but downward trending since ___. 
Concern for HIT given recently started heparin, but HIT panel at 
___ was negative. Etiology unclear, likely 
medication induced. LFTs wnl. No e/o splenomegaly or cirrhosis 
on U/S.  Recommend work-up as outpatient as platelet levels 
improved during his hospitalization.

#BRBPR: Per OMR, GI bleed x 3 days prior to admission per 
patient. Never had a colonoscopy in the past. No current e/o 
bleed, H/H stable.  Patient was treated with PPI BId, lowered 
PTT goal, and monitored for active signs of bleed.  As his H/H 
remained stable, we did not pursue any further intervention 
while inpatient, and will recommend further work-up as an 
outpatient.

#Hypernatremia: Resolved with D5W. 151 up from 150 on admission, 
likely ___ fluid restrictions and loosing free water ___ 
hyperglycemia.

#CAD: Patient continued on ASA, statin, metoprolol.

#HLD: Continue statin as above.

=============================
TRANSITIONAL ISSUES:
=============================
- Weight on discharge:  70.5 kg
- Please follow up with outpatient labs: INR (___), BMP, Cr, 
digoxin level, TSH, LFTs
- Please follow-up with your PCP and specialist appointments as 
scheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO BID 
2. Lisinopril 10 mg PO DAILY 
3. Carvedilol 6.25 mg PO BID 
4. Aspirin 325 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. MetFORMIN (Glucophage) 500 mg PO TID 

 
Discharge Medications:
1. Outpatient Lab Work
ICD-9 code: 428 (CHF exacerbation)
Outpatient Labs:
PTT, INR, BMP, Cr, digoxin level, TSH, LFT
2. Aspirin 81 mg PO DAILY 
3. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1
4. Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*1
5. Warfarin 2.5 mg PO DAILY16 
RX *warfarin [Coumadin] 2.5 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1
6. HydrALAzine 20 mg PO Q8H 
RX *hydralazine 10 mg 2 tablet(s) by mouth every eight (8) hours 
Disp #*60 Tablet Refills:*1
7. Digoxin 0.125 mg PO EVERY OTHER DAY 
RX *digoxin 125 mcg 1 tablet(s) by mouth every other day Disp 
#*30 Tablet Refills:*1
8. Atorvastatin 80 mg PO QPM 
9. Furosemide 20 mg PO BID 
Hold if SBP < 100 
10. MetFORMIN (Glucophage) 500 mg PO TID 
11. Amiodarone 400 mg PO TID Duration: 5 Days 
400 mg TID: ___
400 mg QD: ___
200 mg QD: ___ 
RX *amiodarone 400 mg 1 tablet(s) by mouth three times a day 
Disp #*12 Tablet Refills:*0
RX *amiodarone 400 mg 1 tablet(s) by mouth three times a day 
Disp #*35 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Atrial fibrillation with rapid ventricular rate
Acute CHF Exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for rapid heart rate and 
shortness of breath.  You were found to have a condition called 
atrial fibrillation, so we started you on a medication called 
warfarin and digoxin to control your heart rate.  You were also 
found to have increased fluid in your body that was causing you 
to have difficulty breathing and moving your legs, so we gave 
you a medication called Lasix, which helped reduce the fluid in 
your body and your symptoms improved.  

We would like you to follow-up with your PCP ___ ___ weeks after 
discharge from the ___.  We also have other specialist 
appointments set-up for you.  Please see below.

It was a pleasure to care for you!

- Your ___ Team
 
Followup Instructions:
___